US08492548B2
To a solution of allyl 3-(2-oxo-1-phenyl-2-((R)-quinuclidin-3-yloxy)ethyl-amino)benzoate (I4) (1.40 g, 3.33 mmol) in dry THF (45 ml), were added tetrakis-(triphenylphosphine)palladium(0) (1.15 g, 1.00 mmol) and piperidine (0.99 ml, 1.00 mmol) and the reaction mixture was stirred at 60° C. for 1.5 hours. The solvent was removed in vacuo and the crude was purified by flash chromatography (DCM/MeOH=9/1 to MeOH) to obtain (R)-3-(2-oxo-1-phenyl-2-(quinuclidin-3-yloxy)ethylamino)benzoic acid (500 mg, 39.5% yield).

reactant | allyl 3-(2-oxo-1-phenyl-2-((R)-quinuclidin-3-yloxy)ethyl-amino)benzoate | 3.33 mmol, 1.40 g | O=C(C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC=C)C=CC1)O[C@H]1CN2CCC1CC2 | C25H28N2O4
reactant | piperidine | 1.00 mmol, 0.99 ml | N1CCCCC1 | C5H11N
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | (R)-3-(2-oxo-1-phenyl-2-(quinuclidin-3-yloxy)ethylamino)benzoic acid | 500 mg, 39.5% yield | O=C([C@@H](C1=CC=CC=C1)NC=1C=C(C(=O)O)C=CC1)OC1CN2CCC1CC2 | C22H24N2O4
